US09340549B2
2-(1-Hydroxycyclopentyl)-2-phenylacetic acid
To a dry 250 mL round bottom flask containing 2 M lithium diisopropyl amide in THF (2 eq.) in THF (164 mL) at 0° C., was added phenyl acetic acid (3.5 g, 25.71 mmol). The mixture was then stirred at ambient temperature for 30 minutes. The reaction mixture was cooled to −78° C. and cyclopentanone (commercially available from Sigma-Aldrich, Milwaukee, Wis.) (2.73 mL, 30.85 mmol, 1.2 eq.) in THF (90 mL) was added dropwise. The mixture was then stirred at −78° C. and allowed to warm to ambient temperature over 3 hours. The progress of the reaction was monitored by TLC (TLC eluent: 30% EtOAc in hexane). The reaction mixture was poured into an EtOAc/water mixture and the aqueous layer was extracted with EtOAc. The aqueous layer was then acidified with dilute hydrochloric acid and extracted with DCM. The DCM solution was washed with brine and then concentrated to provide the product. The product (3.5 g) thus obtained was used in the next step without any further purification.

reactant | lithium diisopropyl amide | 2 M | C(C)(C)[N-]C(C)C.[Li+]
reactant | phenyl acetic acid | 25.71 mmol, 3.5 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 164 mL | C1CCOC1 | C4H8O
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 2 eq. | C1CCOC1 | C4H8O
solvent | EtOAc water | CCOC(=O)C.O
product | 2-(1-Hydroxycyclopentyl)-2-phenylacetic acid | 3.5 g | OC1(CCCC1)C(C(=O)O)C1=CC=CC=C1 | C13H16O3
